US06172057B2
2-[(2-Hydroxy-ethyl)-(2-phenyl-ethyl)-amino]-ethanol was prepared according to the general method as outlined in example 1. Starting from diethanolamine (6.0 g, 57). and 2-bromo-ethylbenzene (9.0 g, 48.3 mmol). Yield 9 g, (90%); yellow oil; MS: 210 (M+H)+.

reactant | diethanolamine | 6.0 g | N(CCO)CCO | C4H11NO2
reactant | 2-bromo-ethylbenzene | 48.3 mmol, 9.0 g | BrCCC1=CC=CC=C1 | C8H9Br
product | 2-[(2-Hydroxy-ethyl)-(2-phenyl-ethyl)-amino]-ethanol | OCCN(CCO)CCC1=CC=CC=C1 | C12H19NO2
